US07615556B2
To a solution of ethyl 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetate (1.34 g, 4.49 mmol) in THF (20 mL), was added aq. sodium hydroxide (10 mL, 4.49 mmol). The mixture was stirred at rt overnight. The reaction was quenched with 1N HCl, extracted into EtOAc, and the combined organic extracts were dried over Na2SO4 and concentrated to give 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetic acid (1.2 g, 99% yield) as a yellow solid.

reactant | ethyl 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetate | 4.49 mmol, 1.34 g | ClC1=CC=C(C=C1)NC(CC(=O)NCC(=O)OCC)(C)C | C15H21ClN2O3
reactant | sodium hydroxide | 4.49 mmol, 10 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-(4-chlorophenylamino)-3-methylbutanamido)acetic acid | 1.2 g, 99% yield | ClC1=CC=C(C=C1)NC(CC(=O)NCC(=O)O)(C)C | C13H17ClN2O3
